US07737149B2
N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-5-(3,3-dimethylpiperazin-1-yl)thiophene-2-carboxamide
2M Trimethylaluminium (1.250 ml, 2.50 mmol) in toluene, was added dropwise to a stirred solution of ethyl 5-(3,3-dimethylpiperazin-1-yl)thiophene-2-carboxylate (0.268 g, 1 mmol) and 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine hydrochloride (0.286 g, 1.00 mmol) in toluene (7.14 ml) at 65° C. under nitrogen. The reaction mixture was stirred and heated at 65° C. for 4 h then 50° C. for 18 h followed by 80° C. for 5 h. Ethyl acetate (5 mL) was added to the reaction mixture followed by a solution of potassium sodium tartrate (5 mL, 20% aqueous). More ethyl acetate (50 mL) and water (25 mL) was added and the mixture was filtered through celite. The filtrate was transferred to a separating funnel and the aqueous layer removed. The ethyl acetate layer was washed with saturated brine and then dried over magnesium sulphate. After filtration the solvent was evaporated to give the crude product as a yellow gum. The crude product was purified by preparative LCMS, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (0.073 g, 15.48%) as a white solid.

reactant | Trimethylaluminium | 2.50 mmol, 2M, 1.250 ml | C[Al](C)C
reactant | ethyl 5-(3,3-dimethylpiperazin-1-yl)thiophene-2-carboxylate | 1 mmol, 0.268 g | CC1(CN(CCN1)C1=CC=C(S1)C(=O)OCC)C | C13H20N2O2S
reactant | 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine hydrochloride | 1.00 mmol, 0.286 g | Cl.COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)N
reactant | potassium sodium tartrate | 5 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7.14 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-5-(3,3-dimethylpiperazin-1-yl)thiophene-2-carboxamide | 0.073 g, 15.48% | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(=O)C=1SC(=CC1)N1CC(NCC1)(C)C | C23H29N5O4S
